US05990142
5I 8-[2-(Benzyloxymethyl)benzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylic acid
Following the process described in example 1 (point A), starting from N-(3-acetyl-2-hydroxyphenyl)-2-(benzyloxymethyl)benzofuran-5-carboxamide and diethyl oxalate, ethyl 8-[2-(benzyloxymethyl)benzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylate was prepared which was subsequently hydrolysed according to the process described in example 1 (point M) to yield the title compound as a white solid with melting point 215-218° C. (65% global yield).

reactant | N-(3-acetyl-2-hydroxyphenyl)-2-(benzyloxymethyl)benzofuran-5-carboxamide | C(C)(=O)C=1C(=C(C=CC1)NC(=O)C=1C=CC2=C(C=C(O2)COCC2=CC=CC=C2)C1)O | C25H21NO5
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethyl 8-[2-(benzyloxymethyl)benzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylate | C(C1=CC=CC=C1)OCC=1OC2=C(C1)C=C(C=C2)C(=O)NC2=CC=CC=1C(C=C(OC12)C(=O)OCC)=O | C29H23NO7
product | 8-[2-(Benzyloxymethyl)benzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C1=CC=CC=C1)OCC=1OC2=C(C1)C=C(C=C2)C(=O)NC2=CC=CC=1C(C=C(OC12)C(=O)O)=O | C27H19NO7
